US08217176B2
Production of ethyl 4-chloro-2-oxo-1,2,5,6,7,8-hexahydroquinoline-3-carboxylate
A mixture of ethyl 4-hydroxy-2-oxo-1,2,5,6,7,8-hexahydroquinoline-3-carboxylate (26.0 g, 110 mmol) and phosphorus oxychloride (51.3 mL) was stirred at 130° C. for 1.5 hr. After cooling, the reaction mixture was concentrated under reduced pressure, and ice was added to the residue. The mixture was neutralized with saturated sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extract was washed successively with saturated sodium hydrogen carbonate solution, water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was collected by filtration, and washed with ethyl acetate-hexane to give the title compound (4.65 g, 17%) as a white solid.

reactant | ethyl 4-hydroxy-2-oxo-1,2,5,6,7,8-hexahydroquinoline-3-carboxylate | 110 mmol, 26.0 g | OC1=C(C(NC=2CCCCC12)=O)C(=O)OCC | C12H15NO4
reactant | phosphorus oxychloride | 51.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-2-oxo-1,2,5,6,7,8-hexahydroquinoline-3-carboxylate | 4.65 g, 17% | ClC1=C(C(NC=2CCCCC12)=O)C(=O)OCC | C12H14ClNO3
